US06340759B1
(167-3) 1-(1-Ethylpiperazin-4-yl)-3-[4-methyl-5-(2-hydroxyethyl)thiazol-2-yl]isoquinoline dihydrochloride
1-(1-Ethylpiperazin-4-yl)-3-[4-methyl-5-(2-benzyloxyethyl)thiazol-2-yl]isoquinoline (512 mg) was converted into a hydrochloride, which was then dissolved in ethanol (7 ml), followed by the addition of palladium hydroxide (222 mg), and the mixture was stirred in hydrogen atmosphere at room temperature for 3 days. After palladium hydroxide was filtered off, the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system). The resulting product was converted into a hydrochloride in a conventional manner, and then recrystallized from ethanol/isopropyl ether, to give the hydrochloride of the title compound as pale yellow crystals (129 mg, yield; 27%).

reactant | 1-(1-Ethylpiperazin-4-yl)-3-[4-methyl-5-(2-benzyloxyethyl)thiazol-2-yl]isoquinoline | 512 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1SC(=C(N1)C)CCOCC1=CC=CC=C1 | C28H32N4OS
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 222 mg | [OH-].[Pd+2].[OH-]
product | 1-(1-Ethylpiperazin-4-yl)-3-[4-methyl-5-(2-hydroxyethyl)thiazol-2-yl]isoquinoline dihydrochloride | 129 mg, yield; 27% | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1SC(=C(N1)C)CCO | InChI=1S/C21H26N4OS.2ClH/c1-3-24-9-11-25(12-10-24)20-17-7-5-4-6-16(17)14-18(23-20)21-22-15(2)19(27-21)8-13-26;;/h4-7,14,26H,3,8-13H2,1-2H3;2*1H
